US06177400B1
Preparation of 4,6,6-trimethyl-1-cyclohexene-1-carbaldehyde
A mixture of 4,6,6-trimethyl-1,3-cyclohexadiene-1-carbaldehyde (141 g, 0.94 mole), ethanol (1 l) and palladium on charcoal (10%, 0.5 g) was hydrogenated by shaking under a H2-atmosphere for 3.5 h. The H2-consumption was 23.5 l. After filtration and concentration of the thus-obtained solution, the residue was distilled at 50°/0.7 hPa, to obtain 125.3 g (87.6%) of the desired product.

reactant | 4,6,6-trimethyl-1,3-cyclohexadiene-1-carbaldehyde | 0.94 mole, 141 g | CC1=CC=C(C(C1)(C)C)C=O | C10H14O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | ethanol | 1 l | C(C)O | C2H6O
product | 4,6,6-trimethyl-1-cyclohexene-1-carbaldehyde | 125.3 g, 87.6% | CC1CC=C(C(C1)(C)C)C=O | C10H16O
